US08476194B2
A suspension of 1-(3-chloro-2-hydroxyphenyl)-ethanone (0.100 g, 0.586 mmol), benzoic acid hydrazide (0.080 g, 0.586 mmol), and glacial acetic acid (0.180 mL) in ethanol (1.8 mL) was heated to 60° C. for 18 hours. The reaction mixture was cooled to room temperature to precipitate the product. The solid was collected via suction filtration and rinsed with ethanol to furnish benzoic acid [1-(3-chloro-2-hydroxy-phenyl)-ethylidene]-hydrazide as a yellow solid (0.100 g, 59%): mp 202-203° C.; 1H NMR (400 MHz, DMSO) δ 14.36 (s, 1H), 11.50 (s, 1H), 7.96 (d, J=7.3 Hz, 2H), 7.68-7.61 (m, 2H), 7.56 (t, J=6.7 Hz, 2H), 7.49 (d, J=7.8 Hz, 1H), 6.92 (t, J=8.0 Hz, 1H), 2.52 (s, 3H); ESIMS m/z 289 ([M+H]+), 287 ([M−H]−).

reactant | 1-(3-chloro-2-hydroxyphenyl)-ethanone | 0.586 mmol, 0.100 g | ClC=1C(=C(C=CC1)C(C)=O)O | C8H7ClO2
reactant | benzoic acid hydrazide | 0.586 mmol, 0.080 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | acetic acid | 0.180 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 1.8 mL | C(C)O | C2H6O
product | benzoic acid [1-(3-chloro-2-hydroxy-phenyl)-ethylidene]-hydrazide | 0.100 g, 59% | ClC=1C(=C(C=CC1)C(C)=NNC(C1=CC=CC=C1)=O)O | C15H13ClN2O2
